US03969419
3-(2-Fluoro-4-biphenylyl)-1-butyl pelargonate by method C
A mixture consisting of 6.11 gm (0.025 mol) of 3-(2-fluoro-4-biphenylyl)-1-butanol, 4.27 gm (0.027 mol) of pelargonic acid, 0.25 gm of p-toluene-sulfonic acid and 50 ml of absolute toluene was refluxed in a vessel equipped with a water trap until no more water separated out. Thereafter, the reaction solution was diluted with ether, the organic solution was extracted with water, dilute ammonia and again with water, dried over sodium sulfate, and the solvent was distilled off. 6.45 gm (67% of theory) of the ester of the formula ##EQU26## having a boiling point of 183°-190°C at 0.1 mm Hg were obtained.

reactant | 3-(2-fluoro-4-biphenylyl)-1-butanol | 0.025 mol, 6.11 gm | FC1=C(C=CC(=C1)C(CCO)C)C1=CC=CC=C1 | C16H17FO
reactant | pelargonic acid | 0.027 mol, 4.27 gm | C(CCCCCCCC)(=O)O | C9H18O2
reactant | p-toluene-sulfonic acid | 0.25 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(2-Fluoro-4-biphenylyl)-1-butyl pelargonate | C(CCCCCCCC)(=O)OCCC(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C25H33FO2
